US04056567
Trans-aconitic acid, 17.4 g (0.10 mole) is dissolved in 300 mls of water. An excess of magnesium hydroxide, 25 g (0.43 mole), is added. This brings the pH to 9.0 and produces a mixture of the magnesium salt of trans-aconitic acid and free magnesium hydroxide. The resulting mixture is then stirred and heated for 6 hours in a Parr pressure reactor at a temperature of 170° C. The reaction mixture is then cooled, mixed with 143 g of 30% sulfuric acid solution and the resulting solution evaporated to dryness in vacuo. The evaporation residue is then extracted with 400 mls of acetone and the acetone extract filtered to remove MgSO4. The acetone filtrate is then evaporated to give 19 g of a residue containing 47% (47% yield) of citric acid, 9% citramalic acid, 5% citraconic acid, 10% itaconic acid, 12% trans-aconitic acid and the balance, water.

reactant | citramalic acid | C(CC(C)(O)C(=O)O)(=O)O | C5H8O5
reactant | citraconic acid | C(\C(\C)=C/C(=O)O)(=O)O | C5H6O4
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | trans-aconitic acid | C(/C(=C\C(=O)O)/C(=O)O)C(=O)O | C6H6O6
product | citric acid | 47% yield | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
